US06875884B1
To a solution of 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (137 mg, 0.32 mmol) in EtOH (5 ml) was added hydrazine monohydrate (63 μl, 1.3 mmol), and the mixture was stirred at RT for 4 h. The reaction mixture was concentrated under vacuum, and then water was added. The mixture was extracted with chloroform, washed with water and brine, dried over sodium sulfate, and filtered. To the filtrate was added 4-(ethoxycarbonyl)phenyl isocyanate (62 mg, 0.32 mmol), and the mixture was stirred at RT for 30 min. The reaction mixture was concentrated under vacuum to dryness, and the residue was adsorbed on a plate of silica gel and then developed with 17% methanol/chloroform to afford 4-[[3-[4-(ethoxycarbonyl)phenylureido]propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (25 mg, 16%): MS(ES+) m/e 482 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 9.86 (s, 1H), 8.80 (br, 1H), 7.91 (m, 3H), 7.61 (m, 3H), 7.21 (m, 1H), 7.12 (m, 2H), 4.70 (t, J=7.6 Hz, 1H), 4.33 (q, J=7.1 Hz, 2H), 3.32 (m, 2H), 3.23 (m, 1H), 3.03-2.84 (m, 3H), 2.74 (m, 2H), 2.55 (m, 1H), 2.21 (m, 2H), 2.02-1.78 (m, 5H), 1.70 (m, 2H), 1.37 (t, J=7.1 Hz, 3H).

reactant | 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 0.32 mmol, 137 mg | C1(C=2C(C(N1CCCN(CCCC(=O)O)C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C25H28N2O4
reactant | hydrazine monohydrate | 1.3 mmol, 63 μl | O.NN
reactant | 4-(ethoxycarbonyl)phenyl isocyanate | 0.32 mmol, 62 mg | C(C)OC(=O)C1=CC=C(C=C1)N=C=O | C10H9NO3
solvent | EtOH | 5 ml | CCO | C2H6O
product | 4-[[3-[4-(ethoxycarbonyl)phenylureido]propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 25 mg, 16% | C(C)OC(=O)C1=CC=C(C=C1)NC(NCCCN(CCCC(=O)O)C1CCCC2=CC=CC=C12)=O | C27H35N3O5
